US06727264B1
1-(4-NITROPHENYL)-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and 1-iodo-4-nitrobenzene: ESMS m/e: 238.2 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-iodo-4-nitrobenzene | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
product | 1-(4-NITROPHENYL)-1H-INDOLE | [N+](=O)([O-])C1=CC=C(C=C1)N1C=CC2=CC=CC=C12 | C14H10N2O2
